US05212320
1N aqueous solution of sodium hydroxide (6 ml) was added to a solution of methyl 3-[1-(3-isobutylphenyl)ethoxy]benzoate (1.40 g) in a mixture of 1.4-dioxane (12 ml) and methanol (6 ml). The reaction mixture was stirred at 25° C. for 18 hours,and then poured into a mixture of ether and 1N hydrochloric acid. The organic layer was separated, washed with water and brine, dried over magnesium sulfate, and evaporated. The crystalline residue was washed with hexane to give 3-[1-[3-isobutylphenyl)ethoxy]benzoic acid (1.20 g) as colorless crystals.

reactant | sodium hydroxide | 6 ml | [OH-].[Na+]
reactant | methyl 3-[1-(3-isobutylphenyl)ethoxy]benzoate | 1.40 g | C(C(C)C)C=1C=C(C=CC1)C(C)OC=1C=C(C(=O)OC)C=CC1 | C20H24O3
reactant | ether | CCOCC | C4H10O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | 1.4-dioxane | 12 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 6 ml | CO | CH4O
product | 3-[1-[3-isobutylphenyl)ethoxy]benzoic acid | 1.20 g | C(C(C)C)C=1C=C(C=CC1)C(C)OC=1C=C(C(=O)O)C=CC1 | C19H22O3
